US08119627B2
To an ice cooled solution of piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)phenyl]-amide (AMR01038, 100 mg, 0.274 mmol) in dry DCM (10 mL) were added pyridine (0.044 mL, 0.548 mmol) and benzoyl chloride (0.047 mL, 0.411 mmol). The reaction mixture was stirred at room temperature until TLC showed consumption of starting material (1 h), and quenched with saturated NaHCO3. The resulting solution was extracted with DCM (3×20 mL), and the combined organic layers were washed with water, 1M HCl (3×20 mL) and brine, dried (MgSO4), filtered and evaporated. Flash chromatography on silica gel of the crude product using hexane to EtOAc gradient as eluent gave 1-benzoylpiperidine-4-carboxylic acid [2-(2,4-dichloro-phenoxy)phenyl]amide (98 mg, 76%) as a white solid, mp 176-177° C. Rf: 0.17 (hexane/EtOAc 1:1) LC/MS (APCI) tr=1.10 min, m/z 471.26 (58), 469.31 (M++H, 100) HPLC tr=2.88 min (99.48%) 1H NMR (270 MHz, CDCl3) δ 1.85 (4H, m, 2CH2), 2.55 (1H, tt, CH), 3.01 (2H, m, CH2), 3.89 (1H, m, ½CH2), 4.74 (1H, m, ½CH2), 6.72 (1H, dd, J=8.2, 1.5 Hz, ArH), 6.95 (1H, d, J=8.6 Hz, ArH), 7.01 (1H, td, ArH), 7.14 (1H, td, ArH), 7.22 (1H, dd, J=8.6, 2.5 Hz, ArH), 7.39 (5H, s, ArH), 7.49 (1H, d, J=2.5 Hz, ArH), 7.78 (1H, br s, NH) and 8.38 (1H, br d, J=8.2, ArH). Anal. Calcd. for C25H22Cl2N2O3: C, 63.97; H, 4.72; N, 5.97. Found: C, 64.10; H, 4.83; N, 5.88%.

reactant | piperidine-4-carboxylic acid [2-(2,4-dichlorophenoxy)phenyl]-amide | ClC1=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=CC(=C1)Cl | C18H18Cl2N2O2
reactant | pyridine | 0.548 mmol, 0.044 mL | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.411 mmol, 0.047 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-benzoylpiperidine-4-carboxylic acid [2-(2,4-dichloro-phenoxy)phenyl]amide | 98 mg, 76% | ClC1=C(OC2=C(C=CC=C2)NC(=O)C2CCN(CC2)C(C2=CC=CC=C2)=O)C=CC(=C1)Cl | C25H22Cl2N2O3
